US09193734B2
Synthesis of (S)-2-amino-N—((S)-1,1-diethoxypropan-2-yl)-N-(quinolin-8-ylmethyl)propanamide (Compound IV-11)
(9H-Fluoren-9-yl)methyl (S)-1-(((S)-1,1-diethoxypropan-2-yl)(quinolin-8-ylmethyl)amino)-1-oxopropan-2-ylcarbamate (Compound III-11) 15.7 g (27 mmol) and piperidine 22.7 g (270 mmol) were added in DCM (90 ml). The mixture was stirred for 1.5 h at room temperature. The mixture was diluted with DCM (200 ml) and washed with water (150 ml×3). The solution was concentrated in vacuo. The residue was purified by column chromatography on silica gel with PE:EA=50:1 to DCM:MeOH=10:1 to give the title compound 7.1 g, (yield 73%).

reactant | (9H-Fluoren-9-yl)methyl (S)-1-(((S)-1,1-diethoxypropan-2-yl)(quinolin-8-ylmethyl)amino)-1-oxopropan-2-ylcarbamate | 27 mmol, 15.7 g | C(C)OC([C@H](C)N(C([C@H](C)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)=O)CC=1C=CC=C2C=CC=NC12)OCC | C35H39N3O5
reactant | piperidine | 270 mmol, 22.7 g | N1CCCCC1 | C5H11N
reactant | EA | CC(OCC)=O | C4H8O2
reactant | MeOH | CO | CH4O
solvent | DCM | 90 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 200 ml | C(Cl)Cl | CH2Cl2
product | (S)-2-amino-N—((S)-1,1-diethoxypropan-2-yl)-N-(quinolin-8-ylmethyl)propanamide | 7.1 g, yield 73% | N[C@H](C(=O)N(CC=1C=CC=C2C=CC=NC12)[C@H](C(OCC)OCC)C)C | C20H29N3O3
